US03962445
a. 6-Chloro-1-ethyl-4-hydroxy carbostyril
5-Chloro-N-ethyl anthranilic acid (13.1g; 0.006 mole) in acetic acid (35 ml) and acetic anhydride (35 ml) was refluxed for 24 hours. The cooled mixture was poured into ice-water and basified to pH 14. The precipitated red oil was separated and the supernatant acidified to pH 5 to give the title compound as a white crystalline solid. m.p. (EtOH) 305°-8°C (Found C, 58.80; H, 4.64; N, 6.49; Cl, 15.95; C11H10CINO2 requires; C, 59.07; H, 4.51; N, 6.26; Cl, 15.85%).

reactant | 5-Chloro-N-ethyl anthranilic acid | 0.006 mole, 13.1g | ClC1=CC=C(C(C(=O)O)=C1)NCC | C9H10ClNO2
reactant | acetic acid | 35 ml | C(C)(=O)O | C2H4O2
solvent | acetic anhydride | 35 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 6-Chloro-1-ethyl-4-hydroxy carbostyril | ClC=1C=C2C(=CC(N(C2=CC1)CC)=O)O | C11H10ClNO2
